US08022223B2
Step A: Preparation of tert-butyl 3-(2-bromoallyl)-2-oxopyrrolidine-1-carboxylate.
In a 250 mL round-bottom flask, tert-butyl 2-oxopyrrolidine-1-carboxylate (4.12 g, 22.2 mmol) was combined with 25 mL of THF and cooled to −78° C. Lithium diisopropylamide (1.5M in THF) (14.8 mL, 22.2 mmol) was added slowly and the mixture was agitated for 30 minutes. 2,3-Dibromopropene (2.72 mL, 22.2 mmol) was added and the mixture was agitated overnight and allowed to warm to ambient temperature. The reaction was then quenched with sodium bicarbonate solution and extracted twice with ether. The extracts were washed with brine and evaporated. The crude product was purified by column chromatography, eluting with 20% ethyl acetate/hexane, to provide the title compound (0.560 g, 8.3% yield).

reactant | tert-butyl 2-oxopyrrolidine-1-carboxylate | 22.2 mmol, 4.12 g | O=C1N(CCC1)C(=O)OC(C)(C)C | C9H15NO3
reactant | Lithium diisopropylamide | 22.2 mmol, 1.5M, 14.8 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2,3-Dibromopropene | 22.2 mmol, 2.72 mL | BrC(=C)CBr | C3H4Br2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(2-bromoallyl)-2-oxopyrrolidine-1-carboxylate | 0.560 g, 8.3% yield | BrC(CC1C(N(CC1)C(=O)OC(C)(C)C)=O)=C | C12H18BrNO3
